US07531532B2
4-(4-Aminophenoxy)-2-{[4-(dimethylaminomethyl)piperidin-1-yl]carbonylamino}pyridine
4-(4-Amino-3-chlorophenoxy)-2-{[4-(dimethylaminomethyl)piperidin-1-yl]carbonylamino}pyridine (122 mg) was dissolved in methanol (15 ml). After then adding 10% palladium-carbon (123 mg), the mixture was stirred for 3 days under a hydrogen atmosphere. The catalyst was filtered and washed with methanol. The filtrate and the washings were combined and concentrated under reduced pressure, and the resultant residue was dried under reduced pressure to provide the title compound (79 mg, 71%) as a colorless oil.

reactant | 4-(4-Amino-3-chlorophenoxy)-2-{[4-(dimethylaminomethyl)piperidin-1-yl]carbonylamino}pyridine | 122 mg | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN(C)C)C=C1)Cl | C20H26ClN5O2
solvent | methanol | 15 ml | CO | CH4O
catalyst | palladium-carbon | 123 mg | [C].[Pd]
product | 4-(4-Aminophenoxy)-2-{[4-(dimethylaminomethyl)piperidin-1-yl]carbonylamino}pyridine | 79 mg, 71% | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN(C)C)C=C1 | C20H27N5O2
